US07767675B2
Step 4. methyl 4-{5-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]pyridin-2-yl}piperazine-1-carboxylate
4-Methylmorpholine (19.3 μL, 0.175 mmol) was added to a solution of 6-{1-[6-(6-piperazin-1-ylpyridin-3-yl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline TFA salt (25.0 mg, 0.0292 mmol) in acetonitrile (0.8 mL), followed by addition of methyl chloroformate (3.39 μL, 0.0438 mmol). The mixture was stirred at RT for 30 min, and was diluted with methanol (1.0 mL). The resulting solution was purified by RP-HPLC (pH=10) to give the desired product. LCMS: (M+H)=506.1.

reactant | 4-Methylmorpholine | 0.175 mmol, 19.3 μL | CN1CCOCC1 | C5H11NO
reactant | 6-{1-[6-(6-piperazin-1-ylpyridin-3-yl)imidazo[1,2-a]pyrimidin-3-yl]cyclopropyl}quinoline TFA salt | 0.0292 mmol, 25.0 mg | OC(=O)C(F)(F)F.N1(CCNCC1)C1=CC=C(C=N1)C=1C=NC=2N(C1)C(=CN2)C2(CC2)C=2C=C1C=CC=NC1=CC2
reactant | methyl chloroformate | 0.0438 mmol, 3.39 μL | ClC(=O)OC | C2H3ClO2
solvent | acetonitrile | 0.8 mL | C(C)#N | C2H3N
solvent | methanol | 1.0 mL | CO | CH4O
product | methyl 4-{5-[3-(1-quinolin-6-ylcyclopropyl)imidazo[1,2-a]pyrimidin-6-yl]pyridin-2-yl}piperazine-1-carboxylate | N1=CC=CC2=CC(=CC=C12)C1(CC1)C1=CN=C2N1C=C(C=N2)C=2C=CC(=NC2)N2CCN(CC2)C(=O)OC | C29H27N7O2
